US07679082B2
1,3-Bis(4-bromophenyl)propane-1,3-dione (DBDBM)
A mixture of ethyl-4-bromobenzoate and sodium methoxide in dry diethyl ether was stirred under an argon atmosphere After 30 min, a solution of 4′-bromoacetophenone in dry diethyl ether was then added drop-wise under stirring. The reaction mixture was stirred for 48 h under argon at room temperature. The muddy mixture was acidified and filtered under reduced pressure. The filtrate was washed with water until pH reaches about 7. The crude product was decolourized with activated charcoal and further purified by recrystallization from ethyl acetate. The white needle crystals obtained was dried in a vacuum oven at 40° C. for 24 h. Yield: 5.40 g (28.3%). M.P.: 193.2-195.4° C. The structure was confirmed by EI-MS, 1H NMR, 13C NMR, FT-IR, UV-Vis spectroscopy, and elemental analysis.

reactant | ethyl-4-bromobenzoate | C(C)OC(C1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 4′-bromoacetophenone | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,3-Bis(4-bromophenyl)propane-1,3-dione | BrC1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)Br)=O | C15H10Br2O2
